US07371869B2
To a solution of (S)-phenylalanine ethyl ester hydrochloride (5.09 g, 22.2 mmol) and tert-butyloxycarbonylphenylglycine (5.06 g, 20.1 mmol) in N,N-dimethylformamide (100 mL) was added diisopropylethylamine (4.2 mL, 24.1 mmol) and O-benzotriazol-1-yl-N,N,N′,N′-tetramethyluronium hexaflurorophosphate (9.16 g, 24.2 mmol) and the mixture stirred at ambient temperature overnight. The reaction mixture was poured into ethyl acetate (750 mL), washed with 1:1 1M aqueous hydrochloric acid/brine (2×75 mL), 1:1 saturated aqueous sodium bicarbonate solution/brine (2×75 mL), brine (200 mL), dried over sodium sulfate and concentrated in vacuo to give 2-(S)-(2-tert-butoxycarbonylamino-2-phenyl-acetylamino)-3-phenyl-propionic acid ethyl ester as a pale yellow solid which still contained some N,N-dimethylformamide.

reactant | (S)-phenylalanine ethyl ester hydrochloride | 22.2 mmol, 5.09 g | Cl.C(C)OC([C@@H](N)CC1=CC=CC=C1)=O
reactant | tert-butyloxycarbonylphenylglycine | 20.1 mmol, 5.06 g | C(C)(C)(C)OC(=O)N(CC(=O)O)C1=CC=CC=C1 | C13H17NO4
reactant | diisopropylethylamine | 24.1 mmol, 4.2 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | O-benzotriazol-1-yl-N,N,N′,N′-tetramethyluronium | N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
solvent | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 750 mL | C(C)(=O)OCC | C4H8O2
product | 2-(S)-(2-tert-butoxycarbonylamino-2-phenyl-acetylamino)-3-phenyl-propionic acid ethyl ester | C(C)OC([C@H](CC1=CC=CC=C1)NC(C(C1=CC=CC=C1)NC(=O)OC(C)(C)C)=O)=O | C24H30N2O5
